US07825244B2
b. 4-[7-(1-Acetyl-azetidin-3-yloxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester
Acetic anhydride (66 μL, 703 μmol) was added dropwise with stirring at rt to a mixture of 4-[7-(Azetidin-3-yloxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester (180 mg, 469 μmol), as prepared in the previous step, in DCM (1.0 mL). The resulting homogeneous yellow solution was stirred overnight, and was then partitioned with DCM (3 mL) and IM NaHCO3 (1×4 mL). The organic layer was dried (Na2SO4), concentrated, and purified by silica flash chromatography (8:2 DCM/acetone/3% DMEA eluent) to afford the title compound as a white crystalline film (88.3 mg, 44% over two steps). LC/MS (ESI): calcd mass 426.2, found 426.9 (MH)+.

reactant | Acetic anhydride | 703 μmol, 66 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-[7-(Azetidin-3-yloxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 469 μmol, 180 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OC1CNC1 | C21H28N4O3
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 4-[7-(1-Acetyl-azetidin-3-yloxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OC1CN(C1)C(C)=O | C23H30N4O4
